US05258405
N-Cycloheptyl-[(2-fluorenyl)methyl]amine
2-Formylfluorene (2.27 g, 11.7 mmol) and cycloheptylamine (1.39 g, 12.3 mmol) were heated together at 120° C. for 14 hrs. After cooling, the reaction mixture was distilled under reduced pressure. Then, ethanol (30 ml) and sodium borohydride (0.44 g, 11.7 mmol) were added to the residue and the mixture was stirred for 0.5 hr. The mixture was then diluted with water (100 ml) and extracted with chloroform (80 ml×2 times). The organic layer was dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure to give 3.15 g of a pale yellow solid residue.

reactant | 2-Formylfluorene | 11.7 mmol, 2.27 g | C(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C14H10O
reactant | cycloheptylamine | 12.3 mmol, 1.39 g | C1(CCCCCC1)N | C7H15N
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | sodium borohydride | 11.7 mmol, 0.44 g | [BH4-].[Na+]
solvent | water | 100 ml | O | H2O
product | N-Cycloheptyl-[(2-fluorenyl)methyl]amine | 3.15 g | C1(CCCCCC1)NCC1=CC=2CC3=CC=CC=C3C2C=C1 | C21H25N
